US09253980B2
Step 1: Preparation of 3.4-dichloro-1-methoxy-pyrrole-2.5-dione
At room temperature 3.6 g (52.9 mmol) sodium ethanolate were added to a mixture of 5.6 g (33.5 mmol) 2.3-dichloro maleic anhydride and 4.6 g (55.1 mmol) methoxyamine hydrochloride in 50 ml of acetic acid. The reaction mixture was stirred 16 hours at room temperature and then poured into an ice/water mixture. An insoluble solid crystallized out which was filtered off and washed with water. Then this solid was redissolved in ethyl acetate. the solution was dried over magnesium sulfate and evaporated. 4.5 g (68% of theory) of the title compound were obtained as a light colored solid. 1H-NMR (CDCl3. δ in ppm): 4.0 (s. 3H).

reactant | sodium ethanolate | 52.9 mmol, 3.6 g | C(C)[O-].[Na+]
reactant | 2.3-dichloro maleic anhydride | 33.5 mmol, 5.6 g | Cl/C=1/C(=O)OC(\C1\Cl)=O | C4Cl2O3
reactant | methoxyamine hydrochloride | 55.1 mmol, 4.6 g | Cl.CON
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3.4-dichloro-1-methoxy-pyrrole-2.5-dione | ClC=1C(N(C(C1Cl)=O)OC)=O | C5H3Cl2NO3
